US08314256B2
N,N-Dibenzyl-2-(1H-indol-3-yl)-2-oxo-acetamide was synthesized following scheme I above starting from (1H-indol-3-yl)-oxo-acetyl chloride and dibenzylamine. Yield (58%). HPLC ret. time 3.52 min, 10-99% CH3CN, 5 min run; 1H NMR (400 MHz, DMSO-d6) δ 12.36 (d, J=2.1 Hz, 1H), 8.18 (d, J=3.3 Hz, 1H), 8.11 (d, J=7.6 Hz, 1H), 7.54 (m, 1H), 7.43-7.39 (m, 2H), 7.35-7.22 (m, 10H), 4.54 (s, 2H), 4.41 (s, 2H); ESI-MS 369.3 m/z (MH+).

reactant | (1H-indol-3-yl)-oxo-acetyl chloride | N1C=C(C2=CC=CC=C12)C(C(=O)Cl)=O | C10H6ClNO2
reactant | dibenzylamine | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
solvent | CH3CN | CC#N | C2H3N
product | N,N-Dibenzyl-2-(1H-indol-3-yl)-2-oxo-acetamide | C(C1=CC=CC=C1)N(C(C(=O)C1=CNC2=CC=CC=C12)=O)CC1=CC=CC=C1 | C24H20N2O2
